US09399639B2
N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)-N-(propylsulfonyl)nicotinamide
The title compound was prepared according to the procedure as described in Example 3 using N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propane-1-sulfonamide (0.1 g, 0.2 mmol), triethylamine (228 μL, 1.6 mmol) and nicotinoyl chloride hydrochloride (146 mg, 0.2 mmol) in CHCl3 (10 mL). The crude product was purified by a silica gel column chromatography (PE/EtOAc (v/v)=2/1) to afford the title compound as a white solid (35 mg, 28.9%). The title compound was characterized by LC-MS and 1H NMR as shown below:

reactant | N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propane-1-sulfonamide | 0.2 mmol, 0.1 g | ClC1=CC=C(C=C1)C=1C=C2C(=NC1)NC=C2C(=O)C=2C(=C(C=CC2F)NS(=O)(=O)CCC)F | C23H18ClF2N3O3S
reactant | triethylamine | 1.6 mmol, 228 μL | C(C)N(CC)CC | C6H15N
reactant | nicotinoyl chloride hydrochloride | 0.2 mmol, 146 mg | Cl.C(C1=CN=CC=C1)(=O)Cl
solvent | CHCl3 | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)-N-(propylsulfonyl)nicotinamide | 35 mg, 28.9% | ClC1=CC=C(C=C1)C=1C=C2C(=NC1)NC=C2C(=O)C=2C(=C(C=CC2F)N(C(C2=CN=CC=C2)=O)S(=O)(=O)CCC)F | C29H21ClF2N4O4S
